US07732477B2
7-Nitro-1-benzofuran-2-carboxylic acid
3.0 g (17.9 mmol) of 2-hydroxy-5-nitrobenzaldehyde, 0.66 g (1.80 mmol) of tetra-N-butylammonium iodide and 9.92 g (71.81 mmol) of potassium carbonate are mixed, 4.09 g (37.7 mmol) of methyl chloroacetate are added and the mixture is heated at 130° C. for 4 h. 35 ml of THF and, with ice cooling, 6.04 g (107.71 mmol) of potassium hydroxide are added. Following the addition of 50 ml of water, the mixture is stirred at RT for 20 h. Using concentrated hydrochloric acid, the pH is adjusted to 0. The mixture is extracted with ethyl acetate. The organic phase is washed with water and dried over sodium sulfate. After the addition of silica gel, the mixture is concentrated and chromatographed on silica gel (mobile phase gradient: toluene to toluene/methanol/glacial acetic acid 35:5:1). Concentration of the product fractions and drying under reduced pressure gives 2.00 g (54% of theory) of the title compound.

reactant | 2-hydroxy-5-nitrobenzaldehyde | 17.9 mmol, 3.0 g | OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H5NO4
reactant | potassium carbonate | 71.81 mmol, 9.92 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 37.7 mmol, 4.09 g | ClCC(=O)OC | C3H5ClO2
reactant | potassium hydroxide | 107.71 mmol, 6.04 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 7-Nitro-1-benzofuran-2-carboxylic acid | [N+](=O)([O-])C1=CC=CC=2C=C(OC21)C(=O)O | C9H5NO5
